US04808723
Preparation of 2-methyl-5-nitrobenzothiazole
A suspension of 10.13 g of 2,4-dinitrochlorobenzene and 15 g of thioacetamide in 50 ml of sulpholane was heated to 100° C. and stirred at this temperature for 1 hour. After cooling, the mixture was clarified. 200 ml of water were added to the filtrate. The solid was filtered off with suction, washed with water and dried.

reactant | 2,4-dinitrochlorobenzene | 10.13 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
reactant | thioacetamide | 15 g | C(C)(=S)N | C2H5NS
reactant | water | 200 ml | O | H2O
solvent | sulpholane | 50 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 2-methyl-5-nitrobenzothiazole | CC=1SC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C8H6N2O2S
